* MODELLING FOR STW45NM50
.SUBCKT STW45NM50 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  1.71517
RS 9 12 0.959647E-02
RD 7 6  0.628261E-01
RJ 8 7  0.430806E-02
CGS 5 9   0.290459E-08
CGD 7 10  0.480554E-08
CK  11 7  0.420553E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.995568E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STW45NM50
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 5.19992
+ PHI   = 0.974773
+ IS    = 0
+ JS    = 0
+ THETA = 0.268898
+ KP    = 44.7605
+ Vmax  = 284826.
+ Kappa = 0.370425
+ eta   = 0.221513E-05
 
.MODEL DGD D
+ IS    =
+ CJO   = 0.125216E-09
+ VJ    = 0.731818
+ M     = 0.343645
.MODEL DBD D
+ IS    =
+ CJO   = 0.329489E-09
+ VJ    = 0.748544
+ M     = 0.282137
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 568
+ N     = 1
+ TT    = 0.612814E-06
+ RS    = 0.356724E-02
.MODEL DID D
+ IS    = 2E-12
+ RS    = 0
+ BV    = 578
 
* END OF MODELLING

